US07786132B2
(iii) 6-Methoxybenzo[b]thiophen-3(2H)-one
n-BuLi (1.6 M in hexanes, 13 mL, 20.8 mmol) was added slowly to a solution of diisopropylamine (2.91 mL, 20.8 mmol) in THF at −78° C. The mixture was stirred under nitrogen for 30 min and N,N-diethyl-4-methoxy-2-(methylthio)benzamide (2.4 g, 9.47 mmol), dissolved in 10 mL of anhydrous THF was added to the reaction dropwise. Stirring was continued at −78° C. for 1 h and the cooling bath was removed. After 12 h, the reaction was cooled back down to −78° C. and a 1:1 mixture of methanol and acetic acid (10 mL) was added to the mixture. The reaction was stirred for 15 min and the cooling bath was removed and allowed to warm up to room temperature. The reaction was diluted with ethyl acetate and the organic layer was washed with saturated aqueous sodium bicarbonate, water and brine. The organic layer was then dried with sodium sulfate, concentrated and purified by flash chromatography using a gradient of 15 to 40% ethyl acetate in hexanes to obtain an off white solid. Yield=1.4 g. MS (M−H)− 179.

reactant | n-BuLi | 20.8 mmol, 1.6 M, 13 mL | [Li]CCCC
reactant | diisopropylamine | 20.8 mmol, 2.91 mL | C(C)(C)NC(C)C | C6H15N
reactant | N,N-diethyl-4-methoxy-2-(methylthio)benzamide | 9.47 mmol, 2.4 g | C(C)N(C(C1=C(C=C(C=C1)OC)SC)=O)CC | C13H19NO2S
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6-Methoxybenzo[b]thiophen-3(2H)-one | COC=1C=CC2=C(SCC2=O)C1 | C9H8O2S
